US08105662B2
To a −25° C. cooled solution of (2S)-2-methylbutan-1-ol (8.8 g) and triethylamine (30 ml) in THF (50 ml), a solution of methanesulfonyl chloride (1.14 g) in THF (10 ml) was drop wise added. After complete addition (15 min) the reaction mixture was further stirred for 2 h at −10° C. then for 30 min at 0° C. It was then filtered over celite and evaporated to dryness to give nearly pure (2S)-2-methylbutyl methanesulfonate as yellowish oil.

reactant | (2S)-2-methylbutan-1-ol | 8.8 g | C[C@H](CO)CC | C5H12O
reactant | triethylamine | 30 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.14 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (2S)-2-methylbutyl methanesulfonate | CS(=O)(=O)OC[C@H](CC)C | C6H14O3S
